US07244722B2
Step 1: 2-Chloro-3-(4-isopropylpiperazin-1-yl)pyrazine.
A mixture 2,3-dichloro-pyrazine (5.0 g, 34 mmol), 1-isopropylpiperazine (6.5 g, 51 mmol) and potassium carbonate (7.0 g, 51 mmol) in acetonitrile (100 mL) was stirred at ambient temperature for 2 h. Addition of hexane, followed by filtration and concentration of the filtrate gave 9.5 g of crude material as an orange liquid. Purification by filtration through silica using heptane/EtOAc (3:1), followed by EtOAc/acetone (1:1), provided 6.5 g (79%) of the title compound as a yellow oil which solidified upon cooling. HPLC purity: 98%. MS m/z 241 (M+H)+. HRMS m/z calcd for C11H17ClN4 (M)+ 240.1142, found 240.1138.

reactant | 2,3-dichloro-pyrazine | 34 mmol, 5.0 g | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | 1-isopropylpiperazine | 51 mmol, 6.5 g | C(C)(C)N1CCNCC1 | C7H16N2
reactant | potassium carbonate | 51 mmol, 7.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexane | CCCCCC | C6H14
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-Chloro-3-(4-isopropylpiperazin-1-yl)pyrazine | 6.5 g, 79% | ClC1=NC=CN=C1N1CCN(CC1)C(C)C | C11H17ClN4
